US05534529
(S)-N-[2-t-Butyl-5-(7-cyclohexyl-3-hydroxyheptyl)-phenyl]-2-(9H-xanthen-9-yl)acetamide (Compound No. 1-73)
A mixture of 1.20 g (1.96 mmol) of (S)-N-{2-t-butyl-5-[7-cyclohexyl-3-(methoxymethoxy)heptyl]phenyl}-2-(9H-xanthen-9-yl)acetamide (prepared as described in Preparation 43) in 12 ml of a 4N solution of hydrogen chloride in dioxane was stirred for 30 minutes and then the solvent was removed by distillation under reduced pressure. The pH of the residue was brought to 7 by adding an aqueous solution of sodium hydrogencarbonate, and the resulting mixture was extracted twice with ethyl acetate. The combined extracts were washed with a saturated aqueous solution of sodium chloride. The washed extracts were dried, and the solvent was removed by distillation under reduced pressure. The resulting residue was purified by column chromatography through silica gel, using a 4:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 0.9 g of the title compound as an oil. This oil was triturated with hexane and the resulting crystallized product was collected, to give 0.83 9 (yield 75%) of the title compound as crystals.

reactant | (S)-N-{2-t-butyl-5-[7-cyclohexyl-3-(methoxymethoxy)heptyl]phenyl}-2-(9H-xanthen-9-yl)acetamide | 1.96 mmol, 1.20 g | C(C)(C)(C)C1=C(C=C(C=C1)CC[C@H](CCCCC1CCCCC1)OCOC)NC(CC1C2=CC=CC=C2OC=2C=CC=CC12)=O | C40H53NO4
reactant | hydrogen chloride | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (S)-N-[2-t-Butyl-5-(7-cyclohexyl-3-hydroxyheptyl)-phenyl]-2-(9H-xanthen-9-yl)acetamide | 0.9 g | C(C)(C)(C)C1=C(C=C(C=C1)CC[C@H](CCCCC1CCCCC1)O)NC(CC1C2=CC=CC=C2OC=2C=CC=CC12)=O | C38H49NO3
